US07417057B2
Step B Synthesis of 3-(4-Methoxy-3-methylphenyl)propanoic Acid (i) as an Intermediate
Formic acid, 40.3 grams (0.88 mole), was stirred and cooled to below 5° C., to which was added 36.9 grams (0.37 mole) of triethylamine at a rate to maintain the reaction mixture temperature below 20° C. Upon completion of addition, 22.0 grams (0.15 mole) of (4-methoxy-3-methylphenyl)formaldehyde was added to the reaction mixture, followed by 22.2 grams (0.15 mole) of 2,2-dimethyl-1,3-dioxane-4,6-dione. Upon completion of addition, the reaction mixture was warmed to 60° C. where it stirred for about 15 minutes. The source of heat was removed, during a period when an exothermic reaction with evolution of gas took place within the reaction vessel. The heat source was returned once the exothermic reaction subsided, and heating of the reaction mixture was resumed for about two hours at 75° C. to 95° C. After this time the reaction mixture was cooled in an ice and water bath, and 200 mL of water, followed by 100 mL of aqueous 4N hydrochloric acid were added. The mixture was then extracted with two portions of diethyl ether. The combined extracts were washed with two portions of an aqueous dilute sodium chloride solution, with one portion of an aqueous saturated sodium chloride solution, and then dried with sodium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure, yielding a residual solid. The solid was dissolved in an aqueous solution of 1N potassium carbonate and washed with two portions of diethyl ether. The aqueous layer was acidified with concentrated hydrochloric acid, and then it was extracted with two portions of diethyl ether. The combined ether extracts were washed with one portion of an aqueous dilute sodium chloride solution, and then dried with sodium sulfate. The mixture was filtered and concentrated under reduced pressure, yielding 26.3 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | triethylamine | 0.37 mole, 36.9 grams | C(C)N(CC)CC | C6H15N
reactant | (4-methoxy-3-methylphenyl)formaldehyde | 0.15 mole, 22.0 grams | COC1=C(C=C(C=C1)C=O)C | C9H10O2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 0.15 mole, 22.2 grams | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | potassium carbonate | 1N | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 mL | O | H2O
solvent | Formic acid | C(=O)O | CH2O2
product | 3-(4-Methoxy-3-methylphenyl)propanoic Acid | 26.3 grams | COC1=C(C=C(C=C1)CCC(=O)O)C | C11H14O3
